US04987132
A mixture of 2.02 g of ethyl 1-piperazinecarboxylate, 1.92 g of anhydrous potassium carbonate, 3.08 g of decyl bromide and 20 ml of 2-butanone was stirred overnight at 80° C. After addition of water, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was extracted with 3N hydrochloric acid. The extract was made alkaline with potassium carbonate and then extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure Ethanol (20 ml) and ml of 10% aqueous sodium hydroxide were added to the residue, and the mixture was stirred overnight at 100° C. The reaction mixture was cooled and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 0.38 g of 1-decylpiperazine as an oil.

reactant | ethyl 1-piperazinecarboxylate | 2.02 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | potassium carbonate | 1.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | decyl bromide | 3.08 g | C(CCCCCCCCC)Br | C10H21Br
reactant | 2-butanone | 20 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 1-decylpiperazine | 0.38 g | C(CCCCCCCCC)N1CCNCC1 | C14H30N2
